US07825244B2
b. 4-(6,7-Difluoro-quinazolin-4-yl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester
A solution of piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester (1.27 g, 5.23 mmol) in dry THF (2 mL) was added dropwise over 2 minutes with stirring to 1.01M LiHMDS/THF (5.75 mL, 5.81 mmol) at −78° C. under argon. After 5 min at −78° C., the cold bath was removed and the reaction was allowed to stir at “rt” for 30 min. A portion of this enolate solution (5.1 mL, 3 mmol enolate) was added dropwise over 2-3 min to a stirred homogeneous solution of 4-chloro-6,7-difluoroquinazoline (600 mg, 2.99 mmol) in dry THF (3 mL) at 0° C. under argon. The reaction was stirred for 30 min at 0° C., and was then quenched with 1M NaH2PO4 (50 mL) and extracted with EtOAc (1×50 mL). The organic layer was washed with 4M NaCl (1×50 mL), dried (Na2SO4), and concentrated. The residue was purified with silica flash chromatography (3:1 hexanes/EtOAc) to afford the title compound as a yellow oil (451 mg, 37%). LC/MS (ESI): calcd mass 407.2, found 408.2 (MH)+.

reactant | piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | 5.23 mmol, 1.27 g | COC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C12H21NO4
reactant | LiHMDS THF | 5.81 mmol, 1.01M, 5.75 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C.C1CCOC1
reactant | 4-chloro-6,7-difluoroquinazoline | 2.99 mmol, 600 mg | ClC1=NC=NC2=CC(=C(C=C12)F)F | C8H3ClF2N2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-(6,7-Difluoro-quinazolin-4-yl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | 451 mg, 37% | COC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)C1=NC=NC2=CC(=C(C=C12)F)F | C20H23F2N3O4
